US08791222B2
Anthracene Modification
To a 100-mL three-necked round bottom flask fitted with a condenser/nitrogen inlet and two stoppers was added divinyltetramethyldisiloxane (4.43 g, 23.8 mmole), divinyltetraethoxydisiloxane (0.38 g, 1.24 mmoles), and tetrakis(dimethylsiloxy)silane (12.33 g, 37.5 mmoles). A solution of 9-vinylanthracene (0.0442 g, 0.525 mmole) in toluene (20 mL) was then added and the mixture stirred at RT. Karstedt's catalyst (21 microliters) was added using an automatic pipette. The mixture was stirred for 1 h then the flask was immersed in an oil bath which was heated to 50° C. overnight. The reaction mixture was cooled then transferred to a single necked round bottom flask and solvent removed on a rotary evaporator. The residue was washed with acetonitrile (4×30 mL), devolatilized using a rotary evaporator at 30° C., followed by devolatization using a Kugelrohr distillation apparatus at 80° C. at full vacuum for 30 mins. The resultant material was a water-white clear liquid (12.85 g, ˜75%). A sample was diluted in methylene chloride and analyzed by UV-Vis spectroscopy. Bands indicative of anthracene were present indicating that the 9-vinylanthracene was incorporated into the polymer.

reactant | divinyltetramethyldisiloxane | 23.8 mmole, 4.43 g | C(=C)[Si](O[Si](C)(C)C)(C)C=C | C8H18OSi2
reactant | divinyltetraethoxydisiloxane | 1.24 mmoles, 0.38 g | C(=C)[Si](O[Si](OCC)(OCC)OCC)(OCC)C=C | C12H26O5Si2
reactant | tetrakis(dimethylsiloxy)silane | 37.5 mmoles, 12.33 g | C[SiH](O[Si](O[SiH](C)C)(O[SiH](C)C)O[SiH](C)C)C | C8H28O4Si5
reactant | 9-vinylanthracene | 0.525 mmole, 0.0442 g | C(=C)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C16H12
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Anthracene | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
